US04256764
20.0 g of trans-2,3-dihydro-2-(4-hydroxy-3-methoxyphenyl)-7-methoxy-3-methyl-5-(E)-propenylbenzofurane and 15.5 g of 3-butyl-1,3-oxazolidine are held in 180 ml of absolute alcohol for 36 hours at 70° C. and subsequently the solvent and excess 3-butyl-1,3-oxazolidine are removed in vacuum. After purification by means of a chromatographic column there is obtained 15.8 g of N-(5-(trans-2,3-dihydro-7-methoxy-3-methyl-5-(E)-propenyl-benzofuran-2-yl)-2-hydroxy-3-methoxyphenyl-methyl)-N-(2-hydroxyethyl)-N-butylamine, a colourless oil.

reactant | trans-2,3-dihydro-2-(4-hydroxy-3-methoxyphenyl)-7-methoxy-3-methyl-5-(E)-propenylbenzofurane | 20.0 g | OC1=C(C=C(C=C1)[C@@H]1OC2=C([C@H]1C)C=C(C=C2OC)\C=C\C)OC | C20H22O4
reactant | 3-butyl-1,3-oxazolidine | 15.5 g | C(CCC)N1COCC1 | C7H15NO
product | N-(5-(trans-2,3-dihydro-7-methoxy-3-methyl-5-(E)-propenyl-benzofuran-2-yl)-2-hydroxy-3-methoxyphenyl-methyl)-N-(2-hydroxyethyl)-N-butylamine | 15.8 g | COC1=CC(=CC=2[C@H]([C@@H](OC21)C=2C=C(C(=C(C2)CN(CCCC)CCO)O)OC)C)\C=C\C | C27H37NO5
